US08039493B2
To a stirred solution of 5-bromo-2-furaldehyde (500 mg) in methanol (5 mL) was added isobutylamine (209 mg). The mixture was stirred overnight at r.t. Sodium borohydride (162 mg) was added and the mixture was stirred for 2 h. The solvent was evaporated under reduced pressure. The residue was dissolved in ethyl acetate and washed with water. The organic phase was dried (MgSO4), filtered and concentrated under reduced pressure to give the crude (5-bromo-furan-2-ylmethyl)-isobutyl-amine (686 mg) as a colorless oil which was used in the next step without further purification.

reactant | 5-bromo-2-furaldehyde | 500 mg | BrC1=CC=C(O1)C=O | C5H3BrO2
reactant | isobutylamine | 209 mg | C(C(C)C)N | C4H11N
reactant | Sodium borohydride | 162 mg | [BH4-].[Na+]
solvent | methanol | 5 mL | CO | CH4O
product | (5-bromo-furan-2-ylmethyl)-isobutyl-amine | 686 mg | BrC1=CC=C(O1)CNCC(C)C | C9H14BrNO
